US04333963
3-(2-Cyanoethoxy)butyl Acrylate
Following the procedures described in Example 1, 3-(2-cyanoethoxy)-1-butanol (bp 145°-150° C./2.5 mm Hg) is prepared from 1,3-butanediol and acrylonitrile, acrylation of which gives the desired product.

reactant | 3-(2-cyanoethoxy)-1-butanol | C(#N)CCOC(CCO)C | C7H13NO2
reactant | 1,3-butanediol | C(CC(C)O)O | C4H10O2
reactant | acrylonitrile | C(C=C)#N | C3H3N
product | 3-(2-Cyanoethoxy)butyl Acrylate | C(C=C)(=O)OCCC(C)OCCC#N | C10H15NO3
